US07001897B2
A solution of 1-benzyloxycarbonyl-3-t-butyldiphenylsilyloxyazetidine (4.04 g, 9.07 mmol) in methanol (200 ml) was subjected to catalytic hydrogenation in the presence of 10% palladium on charcoal (4.04 g) at room temperature for 1.5 hours. After checking the completion of the reaction, the reaction mixture was filtered and the filtrate concentrated under reduced pressure, and the obtained residue was dried under reduced pressure to give 3-t-butyldiphenylsilyloxyazetidine (2.70 g, yield 96%) as a colorless oil.

reactant | 1-benzyloxycarbonyl-3-t-butyldiphenylsilyloxyazetidine | 9.07 mmol, 4.04 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C27H31NO3Si
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on charcoal | 4.04 g | [Pd] | Pd
product | 3-t-butyldiphenylsilyloxyazetidine | 2.70 g, yield 96% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CNC1 | C19H25NOSi
